US04329347
6-[4-(3,5-Dibromo-4-amino-phenylsulfonyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 124 from 6-[4-(3,5-dibromo-4-amino-phenylsulfinyl)-butoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[4-(3,5-dibromo-4-amino-phenylsulfinyl)-butoxy]-3,4-dihydro-carbostyril | BrC=1C=C(C=C(C1N)Br)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H20Br2N2O3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(3,5-Dibromo-4-amino-phenylsulfonyl)-butoxy]-3,4-dihydro-carbostyril | BrC=1C=C(C=C(C1N)Br)S(=O)(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H20Br2N2O4S
